US04115438
In a 250 ml round-bottomed flask equipped with mechanical stirring, reflux condenser, addition funnel and argon inlet was placed 20.2 g of cis-1,2-bis(bromomethyl)cyclobutane, 12.4 ml diethylmalonate, and 72 ml of dry t-butanol. The reaction mixture was refluxed and a solution of 19.9 g of potassium-t-butoxide in 123 ml of t-butanol was added over 6.0 hr. The reaction mixture was refluxed for 15 hr. The reaction mixture was cooled by external application of an ice-water bath and an equal volume of water added. The mixture was extracted with ether. The ether extracts were washed with 3 N hydrochloric acid and 5% aqueous sodium bicarbonate, then dried (MgSO4), filtered and distilled in vacuo to yield 10.3 g of 3,3-bis(ethoxycarbonyl)bicyclo[3.2.0]heptane as a clear oil, bp 100°-105° C (vacuum pump).

reactant | cis-1,2-bis(bromomethyl)cyclobutane | 20.2 g | BrC[C@H]1[C@H](CC1)CBr | C6H10Br2
reactant | diethylmalonate | 12.4 ml | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | potassium-t-butoxide | 19.9 g | CC(C)([O-])C.[K+]
reactant | water | O | H2O
reactant | t-butanol | 123 ml | C(C)(C)(C)O | C4H10O
reactant | t-butanol | 72 ml | C(C)(C)(C)O | C4H10O
product | 3,3-bis(ethoxycarbonyl)bicyclo[3.2.0]heptane | 10.3 g | C(C)OC(=O)C1(CC2CCC2C1)C(=O)OCC | C13H20O4
